US07368479B2
A solution of 1-hydroxy-propan-2-one (95%, 78 g, 1.0 mol), 3,4-dihydro-2H-pyrane (95%, 88.5 g, 1.0 mol) and pyridinium p-toluenesulfonate (25.1 g, 0.1 mol) in THF (1.2 l) is stirred at room temperature for 16 hours. The mixture is diluted with ethyl acetate and repeatedly washed with brine. The organic phase is dried, filtered evaporated to afford 1-(tetrahydropyran-2-yloxy)-propan-2-one (127.8 g, 80.8%) as a liquid.

reactant | 1-hydroxy-propan-2-one | 1.0 mol, 78 g | OCC(C)=O | C3H6O2
reactant | 3,4-dihydro-2H-pyrane | 1.0 mol, 88.5 g | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 0.1 mol, 25.1 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | THF | 1.2 l | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(tetrahydropyran-2-yloxy)-propan-2-one | 127.8 g, 80.8% | O1C(CCCC1)OCC(C)=O | C8H14O3
